US07037908B2
N-(4-fluorobenzyl)-5-hydroxy-2-(2-methoxyphenyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 5-hydroxy-2-(2-methoxy-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (45.6 mg, 0.15 mmol) and 4-fluorobenzylamine (95 mg, 0.75 mmol). The title product was obtained as a pink solid (37 mg, 64% yield). 1HNMR (500 MHz, CDCl3) δ: 12.13 (1H, s), 7.90 (1H, t, J=5.50 Hz), 7.48 (1H, td, J=7.02, 1.83 Hz), 7.29–7.26 (3H, m), 7.06 (1H, t, J=7.33 Hz), 7.02–6.97 (3H, m),4.53 (2H, d, J=6.41 Hz), 3.81 (3H, s), 3.34 (3H, s). HRMS (ESI) calcd for C20H19FN3O4 (M+H): 384.1360; found: 384.1370.

reactant | 5-hydroxy-2-(2-methoxy-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 45.6 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1)OC | C15H16N2O5
reactant | 4-fluorobenzylamine | 0.75 mmol, 95 mg | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-(4-fluorobenzyl)-5-hydroxy-2-(2-methoxyphenyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2)OC)C=C1 | C20H18FN3O4
